US09353096B2
In a 500 mL round-bottomed flask, 6-(6-(trifluoromethyl)pyridin-3-yl)morpholin-3-one (0.65 g, 2.64 mmol) was combined with THF (35 ml) to give a light yellow solution. The reaction mixture was cooled to 0° C. LiAlH4 (3.3 ml of a 2M solution in THF, 6.6 mmol) was added by dropwise addition. The reaction mixture was allowed to warm to room temperature and then stirred for 12 h. The reaction mixture was cooled to 0° C. and quenched carefully by sequential addition of H2O (0.27 mL), 2M NaOH (0.54 mL) and then H2O (0.54 mL). The mixture was stirred for 10 min., filtered through Celite and the Celite washed 1 time with THF and several times with ethyl acetate. The combined filtrate and washes were concentrated. The crude residue was purified by flash chromatography (silica gel, 40 g, 0.5% to 5% MeOH in dichloromethane) to afford 2-(6-(trifluoromethyl)pyridin-3-yl)morpholine (272 mg) as a colorless oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.92 (br. s., 1H) 2.76 (dd, J=12.38, 10.36 Hz, 1H) 2.88-3.07 (m, 2H) 3.13 (dd, J=12.25, 2.65 Hz, 1H) 3.81 (td, J=11.37, 2.78 Hz, 1H) 4.01-4.15 (m, 1H) 4.63 (dd, J=10.36, 2.53 Hz, 1H) 7.69 (d, J=8.08 Hz, 1H) 7.84-7.96 (m, 1H) 8.63-8.77 (m, 1H).

reactant | 6-(6-(trifluoromethyl)pyridin-3-yl)morpholin-3-one | 2.64 mmol, 0.65 g | FC(C1=CC=C(C=N1)C1OCC(NC1)=O)(F)F | C10H9F3N2O2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 2-(6-(trifluoromethyl)pyridin-3-yl)morpholine | 272 mg | FC(C1=CC=C(C=N1)C1CNCCO1)(F)F | C10H11F3N2O
